US08486950B2
2,6-dichloro-N-(2-(4,6-dimethylpyrimidin-2-ylamino)pyridin-4-yl)benzamide
To a microwave tube was added N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide (0.25 g, 0.89 mmol), 2-chloro-4,6-dimethylpyrimidine (0.19 g, 1.34 mmol), Pd2(dba)3 (0.81 g, 0.089 mmol), XantPhos (0.104 g, 0.179 mmol), Cs2CO3 (0.85 g, 2.6 mmol) and dioxane (4 mL). The mixture was degassed with N2 for 10 min. The resulting mixture was irradiated in a microwave reactor at 140° C. for 3 hours and then cooled to room temperature. The mixture was filtered through Celite and concentrated under reduced pressure. The residue was purified by column chromatography to afford the desired product as a white solid (22 mg, yield: 8%). 1H NMR (500 MHz, MeOH-d4): δ 8.96 (d, J=1.5 Hz, 1H), 8.17 (d, J=5.5 Hz, 1H), 7.41-7.54 (m, 4H), 6.77 (s, 1H), 2.44 (s, 6H). LCMS (ESI) m/z: 388.0 [M+H+].

reactant | N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide | 0.89 mmol, 0.25 g | NC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H9Cl2N3O
reactant | 2-chloro-4,6-dimethylpyrimidine | 1.34 mmol, 0.19 g | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | XantPhos | 0.179 mmol, 0.104 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 2.6 mmol, 0.85 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.089 mmol, 0.81 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 2,6-dichloro-N-(2-(4,6-dimethylpyrimidin-2-ylamino)pyridin-4-yl)benzamide | 22 mg, yield: 8% | ClC1=C(C(=O)NC2=CC(=NC=C2)NC2=NC(=CC(=N2)C)C)C(=CC=C1)Cl | C18H15Cl2N5O
